US04772602
3-{2-(N-benzyl-N-methylamino)ethoxycarbonyl}-5-cyclopropylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3,4-dihydropyrimidine (1)
Trichloromethyl chloroformate (144 μl) was dissolved in 10 ml of tetrahydrofuran (THF). To the resulting solution, a mixture of 5-cyclo-propylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyrimidine (329 mg) and triethylamine (607 ml) in THF (20 ml) was added under stirring at -23° C., followed by stirring for an additional one hour. To the resulting mixture, 2-(N-benzyl-N-methylamino)ethan-1-ol (991 mg) in THF (10 ml) was added at 0° C., followed by stirring for one hour. The stirring was continued for one more hour at room temperature and, thereafter, the reaction mixture was diluted with a saturated aqueous solution of sodium chloride and subjected to extraction with chloroform. After drying the extract, the solvent was evaporated and the residue (1.32 g) was subjected to silica gel chromatography. By elution with 1% methanol-chloroform, the desired compound was obtained in an amount of 354 mg (yield: 68%). The physicochemical data of the compound are shown in Table 1.

reactant | Trichloromethyl chloroformate | 144 μl | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 5-cyclo-propylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyrimidine | 329 mg | C1(CC1)COC(=O)C=1C(N=C(NC1C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C17H19N3O4
reactant | triethylamine | 607 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(N-benzyl-N-methylamino)ethan-1-ol | 991 mg | C(C1=CC=CC=C1)N(C)CCO | C10H15NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | 3-{2-(N-benzyl-N-methylamino)ethoxycarbonyl}-5-cyclopropylmethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3,4-dihydropyrimidine | yield: 68% | C(C1=CC=CC=C1)N(C)CCOC(=O)N1C(=NC(=C(C1C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC1CC1)C)C | C28H32N4O6
